US08008303B2
5′-(Cyclohexanecarbonyl-amino)-2′-chloro-biphenyl-4-carboxylic acid [4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenyl]-amide
A mixture of 5′-(cyclohexanecarbonyl-amino)-2′-chloro-biphenyl-4-carboxylic acid (100 mg), 4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenylamine (67 mg), triethylamine (0.098 ml) and HBTU (159 mg) in dry DMF (5 ml) was stirred at 20 C for 18 h. The mixture was then evaporated to dryness and purified via reversed-phase preparative HPLC (eluting with acetonitrile/water) to afford the title compound as an orange solid (35 mg).

reactant | 5′-(cyclohexanecarbonyl-amino)-2′-chloro-biphenyl-4-carboxylic acid | 100 mg | C1(CCCCC1)C(=O)NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)O)Cl | C20H20ClNO3
reactant | 4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenylamine | 67 mg | O=S1(CCN(CC1)CC1=CC=C(C=C1)N)=O | C11H16N2O2S
reactant | triethylamine | 0.098 ml | C(C)N(CC)CC | C6H15N
reactant | HBTU | 159 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5′-(Cyclohexanecarbonyl-amino)-2′-chloro-biphenyl-4-carboxylic acid [4-(1,1-dioxo-1lambda*6*-thiomorpholin-4-ylmethyl)-phenyl]-amide | 35 mg | O=S1(CCN(CC1)CC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)NC(=O)C1CCCCC1)Cl)=O | C31H34ClN3O4S
